US04337256
1-iso-Propyl-5-aminomethylisoquinoline (8.7 g) was dissolved in 20 ml of acetic acid and 20 ml of water, and with ice cooling, 9 g of sodium nitrite was added. The mixture was stirred for 30 minutes. Then, 30 ml of a 10 N aqueous solution of sodium hydroxide was added, and the mixture was heated for 1 hour. The product was extracted with ethyl acetate, washed in water, and dried, followed by distilling off the solvent. Recrystallization of the residue from methylene chloride/n-hexane afforded 7.1 g of 1-isopropyl-5-hydroxymethylisoquinoline as colorless needles having a melting point of 119.9° to 120.9° C.

reactant | 1-iso-Propyl-5-aminomethylisoquinoline | 8.7 g | C(C)(C)C1=NC=CC2=C(C=CC=C12)CN | C13H16N2
reactant | sodium nitrite | 9 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 20 ml | O | H2O
product | 1-isopropyl-5-hydroxymethylisoquinoline | 7.1 g | C(C)(C)C1=NC=CC2=C(C=CC=C12)CO | C13H15NO
